US07501411B2
Step 1: 5-Bromo-2-(4-methoxybenzyl)-3,3-dimethyl-2,3-dihydroisoindol-1-one
A suspension of sodium hydride (130 mg, 60% dispersion in mineral oil, 3.2 mmol) and tetra-nbutylammonium iodide (243 mg, 0.68 mmol) in THF (20 mL) is stirred at rt and a solution of 5-bromo-2,3-dihydroisoindol-1-one (675 mg, 3.2 mmol) in THF (20 mL) and DMF (4 mL) is added. After 75 min 4-methoxybenzyl bromide (460 μL, 3.2 mmol) is added and stirring is continued for 4 h. Sodium hydride (635 mg, 60% dispersion in mineral oil, 15.9 mmol) is then added and stirring is continued for 30 min before iodomethane (1.19 mL, 19 mmol) is added and the mixture heated to 70° C. for 30 min. After cooling, NH4Cl (sat. aq.) is added and the mixture is diluted with ethyl acetate (120 mL). The layers are separated, the organic phase is dried over MgSO4 and the solvents removed under reduced pressure. The residue is purified by silica chromatography, eluting with 5% to 10% ethyl acetate in petroleum ether to afford the title compound as a yellow oil (640 mg, 1.78 mmol).

reactant | sodium hydride | 3.2 mmol, 130 mg | [H-].[Na+]
reactant | iodide | 0.68 mmol, 243 mg | [I-]
reactant | 5-bromo-2,3-dihydroisoindol-1-one | 3.2 mmol, 675 mg | BrC=1C=C2CNC(C2=CC1)=O | C8H6BrNO
reactant | 4-methoxybenzyl bromide | 3.2 mmol, 460 μL | COC1=CC=C(CBr)C=C1 | C8H9BrO
reactant | Sodium hydride | 15.9 mmol, 635 mg | [H-].[Na+]
reactant | iodomethane | 19 mmol, 1.19 mL | IC | CH3I
reactant | NH4Cl | [NH4+].[Cl-]
reactant | THF | 20 mL | C1CCOC1 | C4H8O
reactant | THF | 20 mL | C1CCOC1 | C4H8O
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 120 mL | C(C)(=O)OCC | C4H8O2
product | 5-Bromo-2-(4-methoxybenzyl)-3,3-dimethyl-2,3-dihydroisoindol-1-one | 1.78 mmol, 640 mg | BrC=1C=C2C(N(C(C2=CC1)=O)CC1=CC=C(C=C1)OC)(C)C | C18H18BrNO2
